US07098212B2
N-[3-(3-{2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionyl]-methanesulfonamide
To a solution of 3-(3-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionic acid (0.10 g, 0.23 mmol) in methylene chloride (2 mL) was added 4-dimethylaminopyridine (0.032 g, 0.27 mmol), (3-(dimethylamino)propyl)ethyl carbodiimide hydrochloride (0.051 g, 0.27 mmol), methanesulfonamide (0.025 g, 0.27 mmol) and triethylamine (0.037 mL, 0.27 mmol). The reaction was stirred at ambient temperature for 18 hours. The reaction mixture was then diluted with dichloromethane and washed with 0.2 M hydrochloric acid. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel to give the title compound (0.051 g, LRMS: 521.5).

reactant | 3-(3-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionic acid | 0.23 mmol, 0.10 g | FC1=CC=C(CN2C[C@H](N(C[C@@H]2C)C(COC=2C(=NC(=CC2)C)CCC(=O)O)=O)C)C=C1 | C24H30FN3O4
reactant | (3-(dimethylamino)propyl)ethyl carbodiimide hydrochloride | 0.27 mmol, 0.051 g | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 0.27 mmol, 0.025 g | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 0.27 mmol, 0.037 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.27 mmol, 0.032 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[3-(3-{2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionyl]-methanesulfonamide | 0.051 g | FC1=CC=C(CN2C[C@H](N(C[C@@H]2C)C(COC=2C(=NC(=CC2)C)CCC(=O)NS(=O)(=O)C)=O)C)C=C1 | C25H33FN4O5S
